US05438035
Preparation of Methyl N-tert-butylglycinate
Methyl bromoacetate (7.1 mL, 75 mmol) is added dropwise to tert-butylamine (31.5 mL, 300 mmol) at 0° C. The reaction mixture is diluted with ether, warmed to room temperature and filtered. The filtrate is concentrated in vacuo to obtain the title product as a clear liquid (10.52 g) which is identified by 1H and 13CNMR spectral analyses.

reactant | Methyl bromoacetate | 75 mmol, 7.1 mL | BrCC(=O)OC | C3H5BrO2
reactant | tert-butylamine | 300 mmol, 31.5 mL | C(C)(C)(C)N | C4H11N
solvent | ether | CCOCC | C4H10O
product | Methyl N-tert-butylglycinate | 10.52 g | C(C)(C)(C)NCC(=O)OC | C7H15NO2
